US04831029
2-Morpholino-7-propionyl-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one
To a mixture of 0.50 g (0.005 mole, 0.69 ml) of triethyl amine, 4 ml of dimethyl formamide, 1 ml of hexamethyl phosphoric triamide and 0.828 g (0.003 mole) of 2-morpholino-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]-pyrimidine-5(10H)-one are added. To the mixture 0.46 g (0.005 mole, 0.43 ml) of propionyl chloride are added under stirring and the reaction mixture is first stirred at 25° C. for six hours and a half and then allowed to stand at room temperature for 16 hours. After addition of 25 ml of water the precipitated crystals are filtered and washed with acetone. The solid is dissolved in 6 ml of hot dimethyl formamide and precipitated by adding 15 ml of acetonitrile. Thus 0.63 g of the desired compound is obtained, yield 63%, m.p.: 278°-280° C.

reactant | triethyl amine | 0.005 mole, 0.69 ml, 0.50 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl formamide | 4 ml | CN(C=O)C | C3H7NO
reactant | 2-morpholino-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]-pyrimidine-5(10H)-one | 0.003 mole, 0.828 g | O1CCN(CC1)C=1NN2C(=NC3=C(C2)CNCC3=O)N1 | C12H16N6O2
reactant | propionyl chloride | 0.005 mole, 0.43 ml, 0.46 g | C(CC)(=O)Cl | C3H5ClO
solvent | water | 25 ml | O | H2O
solvent | hexamethyl phosphoric triamide | 1 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 2-Morpholino-7-propionyl-6,7,8,9-tetrahydro-pyrido[4,3-d]-1,2,4-triazolo[1,5-a]pyrimidine-5(10H)-one | 0.63 g, yield 63% | O1CCN(CC1)C=1NN2C(=NC3=C(C2)CN(CC3=O)C(CC)=O)N1 | C15H20N6O3
